US05635510
33.1 Synthesis of 1-tert-butoxycarbonyl-4-cyano-4-(pyridin-2-yl)-piperidine
Prepare by the method of example 30.2 using 2-pyridylacetonitrile (10 mmol) and 2-chloro-N-(2-chloroethyl)-N-tert-Butoxycarbonyl-ethanamine (11 mmol).

reactant | 2-pyridylacetonitrile | 10 mmol | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 2-chloro-N-(2-chloroethyl)-N-tert-Butoxycarbonyl-ethanamine | 11 mmol | ClCCN(C(=O)OC(C)(C)C)CCCl | C9H17Cl2NO2
product | 1-tert-butoxycarbonyl-4-cyano-4-(pyridin-2-yl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=NC=CC=C1)C#N | C16H21N3O2
